US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-phenoxy-phthalazine (Compound 47)
A suspension of DMF (15 ml), phenol (0.53 g, 5.64 mmoles) and NaH (4.23 mmoles) was stirred under dry N2 at room temperature. After 15 minutes 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (0.5 g, 1.41 mmoles), prepared as described in example 45, was dropped and the temperature brought to 100° C. After 20 hours the mixture was partitioned between water and CH2Cl2. The organic phase was washed with water, anhydrified and concentrated to give a residue which was triturated in ethyl ether. The insoluble was flash chromatographed (eluent: hexane/ethyl acetate 7:3) to give a solid which was crystallised from isopropyl ether (15 ml) and yielded 0.25 g of the title compound (yield: 49%). m.p.: 130-132° C.

reactant | phenol | 5.64 mmoles, 0.53 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 4.23 mmoles | [H-].[Na+]
reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 1.41 mmoles, 0.5 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10Cl3N3O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-phenoxy-phthalazine | 0.25 g, yield: 49% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)OC1=CC=CC=C1)Cl | C21H15Cl2N3O2
